US04335127
To 135 parts of N,N-dimethylforamide are added first 16.2 parts of 2,2,2-trichloro-N-[2-[1-[(2-hydroxyethyl)imino]ethyl]phenyl]acetamide and then portionwise 5.7 parts of sodium borohydride while stirring: exothermic reaction. Upon completion, stirring is continued overnight at room temperature. The reaction mixture is poured onto water and the product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions are collected and the eluent is evaporated, yielding 8.5 parts of 3,4-dihydro-3-(2-hydroxyethyl)-4-methyl-2(1H)-quinazolinone as a solid residue.

reactant | 2,2,2-trichloro-N-[2-[1-[(2-hydroxyethyl)imino]ethyl]phenyl]acetamide | ClC(C(=O)NC1=C(C=CC=C1)C(C)=NCCO)(Cl)Cl | C12H13Cl3N2O2
reactant | sodium borohydride | [BH4-].[Na+]
solvent | N,N-dimethylforamide | CN(C=O)C | C3H7NO
product | 3,4-dihydro-3-(2-hydroxyethyl)-4-methyl-2(1H)-quinazolinone | OCCN1C(NC2=CC=CC=C2C1C)=O | C11H14N2O2
